US05055613
3,3-Dimethoxy 2,2-dimethylpropanol.
A solution of 24.4 g (0.24 mol) of 3-hydroxy-2,2-dimethylpropanal (Aldrich), 26 g (0.25 mol) of trimethyl orthoformate, and 0.5 mL of 6.8 N HCl/dioxane in 300 mL of methanol was allowed to stand at room temperature overnight. A slight excess of NaOCH3 was added and the solvent evaporated at reduced pressure. The residue was dissolved in ether and the mixture filtered. After evaporation of solvent and fractionation twice through a 15 cm Vigreux column, the product was obtained as a water white oil, bp 43°-48°/0.2mm, 18.5 g (52%).

reactant | 3-hydroxy-2,2-dimethylpropanal | 0.24 mol, 24.4 g | OCC(C=O)(C)C | C5H10O2
reactant | trimethyl orthoformate | 0.25 mol, 26 g | C(OC)(OC)OC | C4H10O3
reactant | HCl dioxane | 6.8 N, 0.5 mL | Cl.O1CCOCC1
reactant | NaOCH3 | O([Na])C
solvent | methanol | 300 mL | CO | CH4O
product | 3,3-Dimethoxy 2,2-dimethylpropanol | COC(C(CO)(C)C)OC | C7H16O3
